US06653313B2
C. Methyl3-(2,6-dichlorophenyl)-2-[3-[2-[[2-(tritylamino)ethoxy]methyl]phenyl]propanoyl]-2-propenoate
A mixture of methyl 3-oxo-5-[2-[[2-(tritylamino)ethoxy]methyl]phenyl]pentanoate (3.33 g, 6.38 mmol), 2,6-dichlorobenzaldehyde (1.12 g, 6.38 mmol), acetic acid (0.5 ml), piperidine (0.5 ml) and benzene (50 ml) was stirred for 4 hours at reflux temperature azeotropically. The reaction mixture was quenched with water (40 ml) and the whole was extracted with Et2O (20 ml×2). The combined extracts were washed with brine, dried over MgSO4, and concentrated in vacuo to afford the titled compound as a yellow oil. (quant.)

reactant | methyl 3-oxo-5-[2-[[2-(tritylamino)ethoxy]methyl]phenyl]pentanoate | 6.38 mmol, 3.33 g | O=C(CC(=O)OC)CCC1=C(C=CC=C1)COCCNC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C34H35NO4
reactant | 2,6-dichlorobenzaldehyde | 6.38 mmol, 1.12 g | ClC1=C(C=O)C(=CC=C1)Cl | C7H4Cl2O
reactant | acetic acid | 0.5 ml | C(C)(=O)O | C2H4O2
reactant | piperidine | 0.5 ml | N1CCCCC1 | C5H11N
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | Methyl3-(2,6-dichlorophenyl)-2-[3-[2-[[2-(tritylamino)ethoxy]methyl]phenyl]propanoyl]-2-propenoate | COC(C(=CC1=C(C=CC=C1Cl)Cl)C(CCC1=C(C=CC=C1)COCCNC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)=O | C41H37Cl2NO4
